US08426437B2
4.3 mL (14.3 mmol) of titanium isopropoxide and 1.9 g (5 mmol) of (S)-2-(tert-butoxycarbonylamino)-propionaldehyde (prepared according to the method described by Itaya, Taisuke et al., Tetrahedron Lett., 1986, 52(27), 6349-52) are added to a solution of 1.88 g (33 mmol) of cyclopropylamine in 10 mL of anhydrous methanol. The solution is stirred for 5 hours at room temperature then 227 mg (6 mmol) of sodium borohydride is added. Stirring is continued for a further 2 hours then 2 mL of water is added. The reaction mixture is filtered then the solvents are evaporated. The residue is purified by chromatography on silica (eluent dichloromethane/methanol 98/2) to give 400 mg (17%) of (S)—N′-tert-butoxycarbonyl-N-cyclopropyl-propane-1,2-diamine in the form of a colourless oil.

reactant | (S)-2-(tert-butoxycarbonylamino)-propionaldehyde | 5 mmol, 1.9 g | C(C)(C)(C)OC(=O)N[C@H](C=O)C | C8H15NO3
reactant | cyclopropylamine | 33 mmol, 1.88 g | C1(CC1)N | C3H7N
reactant | sodium borohydride | 6 mmol, 227 mg | [BH4-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
catalyst | titanium isopropoxide | 14.3 mmol, 4.3 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (S)—N′-tert-butoxycarbonyl-N-cyclopropyl-propane-1,2-diamine | 400 mg, 17% | C(C)(C)(C)OC(=O)N[C@H](CNC1CC1)C | C11H22N2O2
